US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenol
Condensation of 4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenol (1.20 g; 4.06 mmol) with 2-chloro-5-ethyl-pyrimidine (0.52 ml; 4.27 mmol) as per general procedure E (conditions: 1.1 eq. DIEA, toluene, 210C, 16 hr) provided the title compound (1.40 g; 85% yield).

reactant | 4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenol | 4.06 mmol, 1.20 g | FC(C1=CC=C(CNCCC2=CC=C(C=C2)O)C=C1)(F)F | C16H16F3NO
reactant | 2-chloro-5-ethyl-pyrimidine | 4.27 mmol, 0.52 ml | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenol | 1.40 g, 85% yield | C(C)C=1C=NC(=NC1)N(CCC1=CC=C(C=C1)O)CC1=CC=C(C=C1)C(F)(F)F | C22H22F3N3O
